US05344812
Step A: 2-Fluoro-4-methoxyphenylhydrazine
With vigorous stirring, 9.15 g (0.065 mole) of 2-fluoro-4-methoxyaniline was added to 60 mL of concentrated hydrochloric acid that had been cooled to -10° C. A solution of 4.83 g (0.070 mole) of sodium nitrite in 30 mL of water was slowly added dropwise, while the temperature was kept at or below -10° C. Upon completion of addition, the reaction mixture was stirred at -10° C. for one hour, after which 33.85 (0.150 mole) of tin(II) chloride dihydrate in 50 mL of concentrated hydrochloric acid was added slowly, dropwise, while the temperature was kept below -5° C. After the reaction mixture had stirred for one hour as it warmed to ambient temperature, the crude product was filtered from the mixture and dissolved in 250 mL of water. This solution was made basic with 4N sodium hydroxide and extracted with methylene chloride. The combined extracts were dried over anhydrous sodium sulfate and filtered. The filtrate was placed on a silica gel column and eluted with methylene chloride to remove colored impurities and then with ethyl acetate to obtain the desired product. The solvent was evaporated under reduced pressure to yield 6.30 g of 2-fluoro-4-methoxyphenylhydrazine. The NMR spectrum was consistent with the proposed structure.

reactant | 2-fluoro-4-methoxyaniline | 0.065 mole, 9.15 g | FC1=C(N)C=CC(=C1)OC | C7H8FNO
reactant | sodium nitrite | 0.070 mole, 4.83 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | water | 30 mL | O | H2O
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | hydrochloric acid | 60 mL | Cl | ClH
product | 2-Fluoro-4-methoxyphenylhydrazine | FC1=C(C=CC(=C1)OC)NN | C7H9FN2O
